US04032527
A mixture of crude 2-(2,4-bis(dimethylamino)-benzoyl)benzoic acid (7 g.), N,N,N' ,N'-tetramethyl-m-phenylenediamine (1.64 g.) and acetic anhydride was warmed (at 25°-35° C.) during two to three hours, then poured into dilute hydrochloric acid (10%). The resulting mixture was basified and filtered with a filter aid. The filter cake was extracted with hot toluene. Dilution of the toluene extract with hexane afforded 3,3-bis(2,4-bis(dimethylamino)-phenyl)phthalide (I: X=Y2 = Y4 = (CH3)2N, Z4 = Z5 = Z6 = Z7 = H) (m.p. 186°-188° C.).

reactant | 2-(2,4-bis(dimethylamino)-benzoyl)benzoic acid | 7 g | CN(C1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(C)C)C | C18H20N2O3
reactant | N,N,N' ,N'-tetramethyl-m-phenylenediamine | 1.64 g | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
product | 3,3-bis(2,4-bis(dimethylamino)-phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(C)C)N(C)C)C | C28H34N4O2
